US07678929B2
17.7 g (58.9 mmol) of 7,8-difluoro-6-methoxymethoxy-2-pentylchroman are initially introduced in 370 ml of THF, and 47.7 ml (75.9 mmol) of n-BuLi (15% soln. in hexane) are added dropwise at −78° C. When the addition is complete, the mixture is stirred at this temperature for 30 min and subsequently at room temperature for 1 h. The solution is re-cooled to −78° C., and a solution of 17.9 g (70.7 mol) of iodine in 100 ml of THF is added dropwise. The reaction mixture is stirred at room temperature for 90 min and subsequently diluted with MTBE. Sat. sodium hydrogensulfite soln. is added to the mixture, which is subsequently washed with water and sat. sodium chloride soln. The crude product remaining after drying using sodium sulfate and removal of the solvents is purified by column chromatography (SiO2, n-heptane:MTBE=3:1), giving 7,8-difluoro-5-iodo-6-methoxymethoxy-2-pentylchroman as a brown oil.

reactant | 7,8-difluoro-6-methoxymethoxy-2-pentylchroman | 58.9 mmol, 17.7 g | FC1=C(C=C2CCC(OC2=C1F)CCCCC)OCOC | C16H22F2O3
reactant | n-BuLi | 75.9 mmol, 47.7 ml | [Li]CCCC
reactant | iodine | 70.7 mol, 17.9 g | II | I2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | THF | 370 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 7,8-difluoro-5-iodo-6-methoxymethoxy-2-pentylchroman | FC1=C(C(=C2CCC(OC2=C1F)CCCCC)I)OCOC | C16H21F2IO3
